US08563565B2
Synthesis of (2,4,6-trimethylpyridin-3-yl)boronic acid
3-bromo-2,4,6-trimethylpyridine (CAS No. 23079-73-4; Prasenjit Mal etc., Journal of Organic Chemistry, 68(9), pp. 3446-3453) (1 g) was added to THF (20 mL). The solution was cooled to −78° C., and n-butyllithium (1.63 M solution in n-hexane, 3.37 mL) was added, followed by stirring at the same temperature for 30 minutes. Trimethyl borate (0.78 mL) was added to the reaction mixture, and the mixture was stirred at −78° C. for 10 minutes and at room temperature for 50 minutes. A saturated aqueous ammonium chloride solution was added to the reaction mixture, and the reaction mixture was concentrated under reduced pressure. The resulting residue was partitioned between oil and water by adding water and DCM. The aqueous layer was concentrated under reduced pressure. DCM and ethanol were added to the resulting residue. The insoluble matter was filtered, and the filtrate was concentrated under reduced pressure to give the title compound (242 mg). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 2.50 (s, 3H), 2.63 (s, 3H), 2.67 (s, 3H), 7.52 (s, 1H).

reactant | 3-bromo-2,4,6-trimethylpyridine | BrC=1C(=NC(=CC1C)C)C | C8H10BrN
reactant | n-butyllithium | 1.63 M, 3.37 mL | C(CCC)[Li]
reactant | Trimethyl borate | 0.78 mL | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2,4,6-trimethylpyridin-3-yl)boronic acid | 242 mg | CC1=NC(=CC(=C1B(O)O)C)C | C8H12BNO2
